US07507729B2
e) 9-Chloro-2-methoxymethyl-5-[1,2,4]triazol-1-yl-4H-1,3,3a,6-tetraaza-benzoazulene
1,2,4-Triazole (74.3 g, 1.08 mol) was dissolved in acetonitrile (850 mL) and N,N-diisopropylethylamine (195 mL, 1.14 mol) was added. After cooling to 0° C. phosphorous oxychloride (29.8 mL, 326 mmol) was added dropwise and the reaction mixture was stirred at 0-5° C. for 2 h. 9-Chloro-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one (45.4 g, 279 mmol) was added at once and the resulting suspension was heated to reflux for 20 h. After cooling to ambient temperature, water (1.30 L) was added and stirring was continued for another 30 min. The solid was filtered off and washed with water (300 mL) and diethylether (200 mL). Drying in vacuo (65° C.) afforded the title compound (33.8 g, 63%) which was obtained as an off-white solid. MS: m/e=330.1 [M+H]+.

reactant | 1,2,4-Triazole | 1.08 mol, 74.3 g | N1N=CN=C1 | C2H3N3
reactant | N,N-diisopropylethylamine | 1.14 mol, 195 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosphorous oxychloride | 326 mmol, 29.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 9-Chloro-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | 279 mmol, 45.4 g | ClC=1C=CC2=C(C3=NC(=NN3CC(N2)=O)COC)C1 | C12H11ClN4O2
solvent | acetonitrile | 850 mL | C(C)#N | C2H3N
solvent | water | 1.30 L | O | H2O
product | 9-Chloro-2-methoxymethyl-5-[1,2,4]triazol-1-yl-4H-1,3,3a,6-tetraaza-benzoazulene | 33.8 g, 63% | ClC1=CC2=C(N=C(CN3N=C(N=C23)COC)N2N=CN=C2)C=C1 | C14H12ClN7O
